US07470679B2
N-(3-Formylpyridin-2-yl)pivalamide
Triethlyamine (7.6 mL, 54 mmol), was added to a solution of 2-aminopyridine-3-carboxaldehyde (4.45 g, 36 mmol) in dichloromethane (70 mL). Mixture was cooled to 0° C. A solution of pivaloyl chloride (5.3 mL, 43 mmol) in dichloromethane (30 mL) was added to the mixture. Reaction was warmed to room temperature. Mixture stirred at room temperature for 63 hours. Mixture was washed successively with water (2×50 mL) and brine (30 mL). Organic layer was dried (magnesium sulfate), filtered and concentrated in vacuo. Silica gel chromatography afforded the title compound as off-white solid in 90% yield. (M+H)+=207.1.

reactant | Triethlyamine | 54 mmol, 7.6 mL | C(C)N(CC)CC | C6H15N
reactant | 2-aminopyridine-3-carboxaldehyde | 36 mmol, 4.45 g | NC1=NC=CC=C1C=O | C6H6N2O
reactant | pivaloyl chloride | 43 mmol, 5.3 mL | C(C(C)(C)C)(=O)Cl | C5H9ClO
solvent | dichloromethane | 70 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | N-(3-Formylpyridin-2-yl)pivalamide | 90% yield | C(=O)C=1C(=NC=CC1)NC(C(C)(C)C)=O | C11H14N2O2
